US07858640B2
[3-(4-chlorobenzyl)-2-ethoxy-4,7-dimethylquinolin-5-yl]acetic Acid Methyl Ester
A mixture of [3-(4-chlorobenzyl)-4,7-dimethyl-2-oxo-1,2-dihydroquinolin-5-yl]acetic acid methyl ester (1.0 g), bromoethane (0.24 mL), potassium carbonate (1.1 g) and N,N-dimethylformamide (10 mL) was heated at 40° C. for 17 hours. The mixture was diluted with ethyl acetate and washed with water and saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and dichloromethane (0:1 to 1:5 by volume) gave title compound as a gum, 0.28 g.

reactant | [3-(4-chlorobenzyl)-4,7-dimethyl-2-oxo-1,2-dihydroquinolin-5-yl]acetic acid methyl ester | 1.0 g | COC(CC1=C2C(=C(C(NC2=CC(=C1)C)=O)CC1=CC=C(C=C1)Cl)C)=O | C21H20ClNO3
reactant | bromoethane | 0.24 mL | BrCC | C2H5Br
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(4-chlorobenzyl)-2-ethoxy-4,7-dimethylquinolin-5-yl]acetic Acid Methyl Ester | COC(CC1=C2C(=C(C(=NC2=CC(=C1)C)OCC)CC1=CC=C(C=C1)Cl)C)=O | C23H24ClNO3
